US07498337B2
6-chloro-5-(trifluoromethyl)pyridine-3-sulfonyl chloride
Under ice-cooling, thionyl chloride (4 mL) was added dropwise over 20 min to water (27 mL). The mixture was stirred at room temperature for 12 hr to give a sulfur dioxide-containing solution. Separately, 6-chloro-5-(trifluoromethyl)pyridine-3-amine (1.14 g) was added to concentrated hydrochloric acid (9 mL) with stirring under ice-cooling, and concentrated hydrochloric acid (9 mL) was further added. A solution of sodium nitrite (0.44 g) in water (6 mL) was added dropwise over 10 min. The reaction mixture was gradually added at 5° C. to the above-mentioned sulfur dioxide-containing solution added with cuprous chloride (15 mg). Under ice-cooling, the mixture was further stirred for 30 min, and the precipitate was collected by filtration and washed with water. The obtained precipitate was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→9:1) to give the title compound as an orange solid (yield 437 mg, 27%).

reactant | 6-chloro-5-(trifluoromethyl)pyridine-3-amine | 1.14 g | ClC1=C(C=C(C=N1)N)C(F)(F)F | C6H4ClF3N2
reactant | hydrochloric acid | 9 mL | Cl | ClH
reactant | hydrochloric acid | 9 mL | Cl | ClH
reactant | sodium nitrite | 0.44 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | water | 6 mL | O | H2O
product | 6-chloro-5-(trifluoromethyl)pyridine-3-sulfonyl chloride | yield 437 mg, 27% | ClC1=C(C=C(C=N1)S(=O)(=O)Cl)C(F)(F)F | C6H2Cl2F3NO2S
